US04746648
2. H-Ala-Sta-OMe
1.46 g of Z-Ala-Sta-OMe are dissolved in 20 ml of MeOH, 1.03 g of ammonium formate are then added at RT, the mixture is stirred until a solution forms, 400 mg of 10% Pd/C are then added and the mixture is stirred for 5 min at RT. After 5 min, checking by TLC shows that the starting material has disappeared. The pH is 8 to pH paper. The whole mixture is filtered on celite and then the methanolic solution is filtered on a column of Amberlite IR 45 resin (OH) and the methanol is evaporated off. The residue is taken up in ether, the mixture is evaporated to dryness, the residue is then dissolved in CH2Cl2, the insoluble material is filtered off and the filtrate is evaporated to dryness to give a white powder.

reactant | Z-Ala-Sta-OMe | 1.46 g | N([C@@H](C)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)OC)C(=O)OCC1=CC=CC=C1 | C20H30N2O6
reactant | ammonium formate | 1.03 g | C(=O)[O-].[NH4+]
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | H-Ala-Sta-OMe | N[C@@H](C)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)OC | C12H24N2O4
